US09403835B2
Step 1: 2-(2-dimethylaminomethyl-imidazol-1-yl)-benzoic acid ethyl ester
A mixture of 2-fluoro-benzoic acid ethyl ester (200 mg; 1.19 mmol; 10 eq.), (1H-imidazol-2-ylmethyl)-dimethyl-amine (149 mg; 1.19 mmol; 1 eq.) and cesium carbonate (775 mg; 2.38 mmol; 2 eq.) in DMSO (3 mL) was stirred at 120° C. for 16 hours. The mixture was diluted with EA, washed with water (3×), dried over magnesium sulfate and concentrated in vacuo to afford the title compound (58 mg, 18%) as a white solid. HPLC (max plot) 95.7%; Rt 1.80 min.

reactant | 2-fluoro-benzoic acid ethyl ester | 1.19 mmol, 200 mg, 10 eq. | C(C)OC(C1=C(C=CC=C1)F)=O | C9H9FO2
reactant | (1H-imidazol-2-ylmethyl)-dimethyl-amine | 1.19 mmol, 149 mg, 1 eq. | N1C(=NC=C1)CN(C)C | C6H11N3
reactant | cesium carbonate | 2.38 mmol, 775 mg, 2 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-(2-dimethylaminomethyl-imidazol-1-yl)-benzoic acid ethyl ester | 58 mg, 18% | C(C)OC(C1=C(C=CC=C1)N1C(=NC=C1)CN(C)C)=O | C15H19N3O2
